US05179105
Under a current of argon, a solution having 251 mg of sodium hydride suspended in 10 ml of tetrahydrofuran and 906 mg of p-chlorothiophenol added thereto as kept cooled with ice were stirred for 30 minutes and the produced mixture and a solution of 1.62 g of 4-methoxymethoxy-3-nitrocinnamyl chloride in 5 ml tetrahydrofuran added thereto were stirred at normal room temperature for 14 hours. The resultant reaction mixture was combined with water and extracted from ethyl acetate. The consequently separated organic layer was washed with saturated saline solution and dried with anhydrous sodium sulfate. The residue from drying was concentrated under a vacuum. The concentrate was subjected to silica gel column chromatography. From the hexane-ethyl acetate (5:1 V/V) eluate, 1.77 g of 5-[3-(4-chlorophenylthio)-1-propenyl]-2-methoxymethoxy nitrobenzene was obtained in the form of a colorless oily substance. The yield was 77%.

reactant | sodium hydride | 251 mg | [H-].[Na+]
reactant | p-chlorothiophenol | 906 mg | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | 4-methoxymethoxy-3-nitrocinnamyl chloride | 1.62 g | COCOC1=C(C=C(C=CCCl)C=C1)[N+](=O)[O-] | C11H12ClNO4
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5-[3-(4-chlorophenylthio)-1-propenyl]-2-methoxymethoxy nitrobenzene | 1.77 g, yield was 77% | ClC1=CC=C(C=C1)SCC=CC=1C=CC(=C(C1)[N+](=O)[O-])OCOC | C17H16ClNO4S
